US09388189B2
c) N,N-Dimethyl-3-(methylsulfonamido)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamide
3-Bromo-N,N-dimethyl-5-(methylsulfonamido)benzamide (325 mg, 1.01 mmol), bis(pinacolato)diboron (335 mg, 1.32 mmol), potassium acetate (300 mg, 3.06 mmol), and bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (65 mg, 0.08 mmol) were suspended in dioxane (10 ml) and stirred overnight at 100° C. After evaporation of the solvent under reduced pressure, ethyl acetate (20 ml) was added to the residue and the precipitated salts were eliminated by filtration. The solvent was evaporated under reduced pressure and the residue was purified using SP1® Purification System (0% to 40%, dichloromethane-ethyl acetate) to give 262 mg (70% yield) of the final product. Purity 99%.

reactant | 3-Bromo-N,N-dimethyl-5-(methylsulfonamido)benzamide | 1.01 mmol, 325 mg | BrC=1C=C(C(=O)N(C)C)C=C(C1)NS(=O)(=O)C | C10H13BrN2O3S
reactant | bis(pinacolato)diboron | 1.32 mmol, 335 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 3.06 mmol, 300 mg | C(C)(=O)[O-].[K+]
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | N,N-Dimethyl-3-(methylsulfonamido)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamide | 262 mg, 70% yield | CN(C(C1=CC(=CC(=C1)B1OC(C(O1)(C)C)(C)C)NS(=O)(=O)C)=O)C | C16H25BN2O5S
